US08685969B2
7-(2-Methoxyethoxy)-4-(2-methyl-3-(quinazolin-4-ylamino)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide (51 mg, 0.131 mmol), and 4-chloroquinazoline (47.3 mg, 0.287 mmol) in 2-Propanol (5 mL) was heated at 115° C. under microwave for 30 min. The mixture was diluted with ethyl acetate (80 mL), washed with saturated NaHCO3 solution (20 mL) and brine (20 mL), and dried over anhydrous MgSO4. The solvent was removed under vacuum, and the residue was purified by reverse phase HPLC. The correct fractions were concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×30 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (18.0 mg, 0.033 mmol, 25.5% yield) as a yellow solid. LCMS (M+H)+=519.30. 1H NMR (500 MHz, DMSO-d6) δ: 11.65 (s, 1H), 10.17 (s, 1H), 8.61 (s, 1H), 8.55 (d, J=8.0 Hz, 1H), 8.29 (s, 1H), 8.19 (s, 1H), 7.89 (m, 1H), 7.80 (d, J=8.3 Hz, 1H), 7.75 (s, 1H), 7.66 (m, 1H), 7.55-7.49 (m, 2H), 7.38-7.36 (m, 2H), 7.33 (d, J=8.9 Hz, 1H), 6.80 (dd, J1=8.7 Hz, J2=2.4 Hz, 1H), 4.17 (m, 2H), 3.73 (m, 2H), 3.34 (s, 3H), 1.87 (s, 3H).

reactant | 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.131 mmol, 51 mg | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N)C | C22H22N4O3
reactant | 4-chloroquinazoline | 0.287 mmol, 47.3 mg | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
solvent | 2-Propanol | 5 mL | CC(C)O | C3H8O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | 7-(2-Methoxyethoxy)-4-(2-methyl-3-(quinazolin-4-ylamino)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.033 mmol, 18.0 mg, 25.5% yield | COCCOC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)NC3=NC=NC1=CC=CC=C31)C)C(=O)N | C30H26N6O3
